US07619096B2
Preparation 1: 1,1-Dimethylethyl (3S)-3-aminopyrrolidine-1-carboxylate
Sodium azide (4.4 g, 67.4 mmol) was added to a solution of 1,1-dimethylethyl (3R)-3-[(methylsulfonyl)oxy]-pyrrolidine-1-carboxylate (14.3 g, 54 mmol) in dry dimethylformamide (75 mL) and the resultant suspension heated at 65° C. for 8 hours. After cooling to room temperature, the reaction mixture was diluted with water and extracted into diethyl ether. The organic phase was washed two further times with water, then brine. The organic extracts were dried (MgSO4), filtered and evaporated in vacuo to give an oil. This was purified by flash chromatography on silica, eluting with diethyl ether/cyclohexane (20:80 to 40:60), to give the title compound as an oil.

reactant | Sodium azide | 67.4 mmol, 4.4 g | [N-]=[N+]=[N-].[Na+]
reactant | 1,1-dimethylethyl (3R)-3-[(methylsulfonyl)oxy]-pyrrolidine-1-carboxylate | 54 mmol, 14.3 g | CS(=O)(=O)O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C10H19NO5S
solvent | dimethylformamide | 75 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1,1-Dimethylethyl (3S)-3-aminopyrrolidine-1-carboxylate | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
